US06107307
3-trifluoromethanesulfonyloxy-8-methyl-8-azabicyclo[3.2.1]oct-2-ene
A solution of diisopropylamine in tetrahydrofuran is cooled to -78° C. To this solution is added dropwise n-butyllithium (1.6 M in hexanes) and the reaction mixture is stirred for 1.5 hours at -78° C. and is then allowed to warm to room temperature. The resulting solution is cooled again to -78° C. and then a solution of 8-methyl-8-azabicyclo[3.2.1]oct-3-one in tetrahydrofuran is added dropwise. After about 30 minutes, a solution of N-phenyltrifluoromethanesulfonimide in tetrahydrofuran is added dropwise. The reaction mixture is allowed to warm gradually to room temperature and is then concentrated under reduced pressure. The residue is dissolved in dichloromethane and placed on a pad of neutral alumina. The alumina column is eluted with 9:1 hexane:ethyl acetate. Fractions containing product are combined and concentrated under reduced pressure to provide title compound.

reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | N-phenyltrifluoromethanesulfonimide | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 3-trifluoromethanesulfonyloxy-8-methyl-8-azabicyclo[3.2.1]oct-2-ene | FC(S(=O)(=O)OC1=CC2CCC(C1)N2C)(F)F | C9H12F3NO3S
